US05538840
The reaction is carried out under nitrogen protection. A mixture of 22.0 g (35.0 mmoles) of 2-phenyl-4-(2-hydroxy-4-n-hexyloxy-phenyl)-6-[2-hydroxy-4-(11-hydroxy-undecyloxy)phenyl]-1,3,5-triazine, 4.4 g (42.0 mmoles) of methacryloyl chloride (Fluka, 97% ), 0.5 g (6.3 mmoles) of pyridine in 100 mL of toluene (Merck, 99.5%) are heated at 80°-85° C. for 21 hours. After cooling to 55° C., there are added 8.9 g (87.5 mmoles) of triethylamine (Fluka, 99.5%). The mixture is heated at 80° C. for further 7 hours then filtered hot. The filtrate is evaporated. The crude product (25.7 g ) is dissolved in 120 mL of CH2Cl2, filtered through a Kieselgel 60 pad (230-400 mesh; 6.5 cm diameter; h=5 cm) and eluted with 380 mL of CH2Cl2. Solvent removal and drying at 80° C./0.1 mmHg for 2 hours 30 min. give 22.3 g (91.4% yield ) of 2-phenyl-4-(2-hydroxy-4-hexyloxyphenyl)-6-[2hydroxy-4-(11-methacryloyloxy-undecyloxy)-phenyl]-1,3,5-triazine, as an orange resin, Tg=-13° C. (DSC).

reactant | 2-phenyl-4-(2-hydroxy-4-n-hexyloxy-phenyl)-6-[2-hydroxy-4-(11-hydroxy-undecyloxy)phenyl]-1,3,5-triazine | 35.0 mmoles, 22.0 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCCCC)O)C1=C(C=C(C=C1)OCCCCCCCCCCCO)O | C38H49N3O5
reactant | methacryloyl chloride | 42.0 mmoles, 4.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | pyridine | 6.3 mmoles, 0.5 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 87.5 mmoles, 8.9 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-phenyl-4-(2-hydroxy-4-hexyloxyphenyl)-6-[2hydroxy-4-(11-methacryloyloxy-undecyloxy)-phenyl]-1,3,5-triazine | 22.3 g, 91.4% yield | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCCCC)O)C1=C(C=C(C=C1)OCCCCCCCCCCCOC(C(=C)C)=O)O | C42H53N3O6
